US06451794B1
(i) 1-(2,2-Dibromo-vinyl)-3-fluoro-benzene
To a stirred cooled (ice/salt, 0°) solution of carbon tetrabromide (48.82 g) in anhydrous CH2Cl2 (200 ml) was added portionwise over 3 minutes, triphenylphosphine (77.1 g), maintaining the temperature below 10°. The resulting orange suspension was stirred at 0° for 1 hour before adding to it, 3-fluorobenzaldehyde (7.8 ml). After the addition was complete, the suspension was stirred at 0° for 1 hour then quenched by the addition of water (75 ml). The organic phase was separated and washed with brine (75 ml), dried (Na2SO4) and evaporated to dryness. The residual gum was poured into cyclohexane (1L) and stirred for 30 minutes. The organic phase was decanted and the residue taken up into CH2Cl2 and poured into cyclohexane (1L). This procedure was repeated twice more and the combined organic phases concentrated to ˜100 ml and passed through silica gel. The filtrate was concentrated to give the title compound as a mobile yellow oil (24 g, 100%).

reactant | carbon tetrabromide | 48.82 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 77.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-fluorobenzaldehyde | 7.8 ml | FC=1C=C(C=O)C=CC1 | C7H5FO
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 1-(2,2-Dibromo-vinyl)-3-fluoro-benzene | 24 g, 100% | BrC(=CC1=CC(=CC=C1)F)Br | C8H5Br2F
